US04555507
As described in Example 1(G), 460 mg of 17α,21-diacetoxy-9α-bromo-11β-hydroxy-6α,16β-dimethyl-1,4-pregnadiene-3,20-dione is debrominated with tributyltin hydride and worked up, thus obtaining 400 mg of 17α,21-diacetoxy-11β-hydroxy-6α,16β-dimethyl-1,4-pregnadiene-3,20-dione, mp 124°-126° C.

reactant | 17α,21-diacetoxy-9α-bromo-11β-hydroxy-6α,16β-dimethyl-1,4-pregnadiene-3,20-dione | 460 mg | C(C)(=O)O[C@]1(C(COC(C)=O)=O)[C@H](C[C@H]2[C@@H]3C[C@@H](C4=CC(C=C[C@]4(C)[C@]3([C@H](C[C@]12C)O)Br)=O)C)C | C27H35BrO7
reactant | tributyltin hydride | C(CCC)[SnH](CCCC)CCCC
product | 17α,21-diacetoxy-11β-hydroxy-6α,16β-dimethyl-1,4-pregnadiene-3,20-dione | 400 mg | C(C)(=O)O[C@]1(C(COC(C)=O)=O)[C@H](C[C@H]2[C@@H]3C[C@@H](C4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)C)C | C27H36O7
